US04194044
A solution of 29.0 g (0.106 mol) of (±)-1-(p-hydroxybenzyl)-2-formyl-1,2,3,4,5,6,7,8-octahydroisoquinoline in 530 ml of freshly distilled pyridine was refluxed with stirring under nitrogen with 12.88 ml of bromobenzene, 51.5 g of copper (granular) and 22.55 g of potassium carbonate for 14 days. The reaction mixture after cooling was diluted with ether 1 l. and filtered. The filtrate was concentrated under reduced pressure and the residue was dissolved in ether (300 ml). The ether solution was washed with 4 N aqueous sodium hydroxide (200 ml) then with water and dried. Removal of the solvent under reduced pressure gave 25.8 g (69%) of crude (±)-1-(p-phenoxybenzyl)-2-formyl-1,2,3,4,5,6,7,8-octahydroisoquinoline. For analysis, a sample of this compound was distilled, bp 220°-230° (0.05 mm Hq).

reactant | (±)-1-(p-hydroxybenzyl)-2-formyl-1,2,3,4,5,6,7,8-octahydroisoquinoline | 0.106 mol, 29.0 g | OC1=CC=C(CC2N(CCC=3CCCCC23)C=O)C=C1 | C17H21NO2
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | bromobenzene | 12.88 ml | BrC1=CC=CC=C1 | C6H5Br
reactant | potassium carbonate | 22.55 g | C([O-])([O-])=O.[K+].[K+]
solvent | ether | 1 l | CCOCC | C4H10O
catalyst | copper | 51.5 g | [Cu] | Cu
product | (±)-1-(p-phenoxybenzyl)-2-formyl-1,2,3,4,5,6,7,8-octahydroisoquinoline | 25.8 g, 69% | O(C1=CC=CC=C1)C1=CC=C(CC2N(CCC=3CCCCC23)C=O)C=C1 | C23H25NO2
